US05482965
Preparation of 2-Ethanoylaminododecyl octadec-9-enoate
To a solution of 2.43 g of 2-ethanoylaminododecanol, 3 g of triethylamine in 50 ml of dichloromethane is added 3.2 g of oleoyl chloride. The reaction mixture is worked up as under Example 9 to give 4.2 g of product.

reactant | 2-ethanoylaminododecanol | 2.43 g | C(C)(=O)NC(CO)CCCCCCCCCC | C14H29NO2
reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
reactant | oleoyl chloride | 3.2 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Ethanoylaminododecyl octadec-9-enoate | 4.2 g | C(CCCCCCCC=CCCCCCCCC)(=O)OCC(CCCCCCCCCC)NC(C)=O | C32H61NO3
